US06218404B1
Preparation of 1-Benzyl-4-(m-fluorobenzylidene)piperidine
To a suspension of m-fluorobenzyltriphenylphosphonium bromide (16.98 g, 0.03 mol) in 50 mL of THF was added 14.5 mL of BuLi (M=2.5 M) at −78° C. under N2. After stirring at −78° C. for 45 min., a solution of 4-benzylpiperidone (5.67 g, 0.03 mol) in 10 mL of THF was added dropwise at −78° C. under N2. The resulting mixture was allowed to warm to room temperature and stirred for another 5 hr. Then the mixture was poured into ice (100 g) and extracted with ether (3×40 mL). The combined extracts were dried over sodium sulfate. The solvent was evaporated in vacuo to give a residue, which was purified by flash chromatography, giving 0.6 g (7%) of the product as pale yellow oil. 1H NMR (CHCl3) 2.413 (m, 2 H), 2.466 (m, 2 H), 2.558 (m, 4 H), 3.558 (s, 2 H), 6.257 (s, 1 H), 6.905 (m, 3 H), 7.284 (m, 6 H).

reactant | m-fluorobenzyltriphenylphosphonium bromide | 0.03 mol, 16.98 g | [Br-].FC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | BuLi | 2.5 M, 14.5 mL | [Li]CCCC
reactant | 4-benzylpiperidone | 0.03 mol, 5.67 g | C(C1=CC=CC=C1)C1CC(NCC1)=O | C12H15NO
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(m-fluorobenzylidene)piperidine | 0.6 g, 7% | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC(=CC=C1)F | C19H20FN
